Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left sided weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old female with history of HTN,
pre-DM, likely HLD and non-compliant with aspirin who presents
with left sided weakness. Neurology consulted for code stroke.

Per daughter and patient she was in her usual state of health
other than ongoing fatigue over the past month or so. She went 
to
bed on night prior to presentation around 10P. When she awoke
this morning around 0600 she tried to grab her cell phone with
her left hand but could not grab it or lift it. She then tried 
to
walk and could not stand. She did feel like her speech sounded
slurred. She denies associated tingling/numbness, visual 
changes,
issues with comprehension of speech or headache. She was
initially taken to ___ where she had SBP 195. 
NIHSS
11. Labs notable for WBC 8, Cr 0.8, BG 209, Trop<.02 and tibili
1.3. ___ showed atrophy but no infarct or hemorrhage. CTA head
and neck was without thrombus or significant stenosis. She was
transferred to ___ for further care. In ED, she reports 
ongoing
left sided weakness but no tingling/numbness or interval
symptoms. She reports no recent illness. She does report fatigue
for the past month or so for which she saw a cardiologist. She
reports she only takes aspirin 2 or 3 times per week. 
 
ROS: Positive as above, 10 point review of system otherwise
negative
 
 
Past Medical History:
"borderline high cholesterol"
hypertension
pre-DM  
 
Social History:
___
Family History:
NC
 
Physical Exam:
Admission exam:
Vitals: 97.8 72 164/74 16 95% 3L NC 
 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to person, ___, ___. Able to relate history without difficulty. Attentive,
able to name ___ backward without difficulty. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Able to name both high and low
frequency objects.  Able to read without difficulty. There is
slight dysarthria but 100% of words are comprehensible. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. V: Facial
sensation intact to light touch.
VII: Left NLFF, droop, diminished activation, sparing forehead
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.  

-Motor: Normal bulk and tone throughout. Cannot lift left arm 
off
the bed, no drift with right arm. No adventitious movements, 
such
as tremor or asterixis noted.
  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]

R    0    0    0    0    0    0   4    5    4+   4   5    
L    5    5    5    5    5    5   5    5    5   5    5  
RUE flexion to noxious stimuli  

-Sensory: No deficits to light touch, pinprick, or 
proprioception
throughout. Extinguishes to DSS on left. 

-Reflexes: 3+ upper extremities, 2+ at patellars, absent at
Achilles. 
Plantar response was flexor right, extensor on left.

-Coordination: No intention tremor. Normal finger-tap right. 

-Gait: Did not assess given code stroke, let hemiparesis
=================================
Discharge exam:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Neck: Supple
Pulmonary: Normal work of breathing.
Cardiac: warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to person, knows current
president. Able to relate history without difficulty. Able to
name both high and low
frequency objects.  There is
slight dysarthria but 100% of words are comprehensible. Able to
follow both midline and appendicular commands.

-Cranial Nerves:
II, III, IV, VI:  PERRL. EOMI without
nystagmus. VFF to confrontation. V: Facial
sensation intact to light touch.
VII: Left NLFF, droop, diminished activation, sparing forehead
VIII: Hearing grossly intact
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions.  

-Motor: 
Increased tone in LUE> LLE. Normal tone on R

  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]

L*   0    2    4-  3-    0    ___    4+   4    4   
R    5    5    5    5    5    5   5    5    5   5    5  
*LUE strength stable from yesterday's exam, yesterday's motor
exam confounded by increased tone

-Sensory: No deficits to light touch throughout. 

-Reflexes: 2+ R patellar, 3+ L patellar

-Coordination/gait: deferred 
 
Pertinent Results:
CT head
IMPRESSION: 
 
No acute large territorial infarction or intracranial 
hemorrhage. Please note
MRI is more sensitive in the detection of acute infarct.

MRI brain

IMPRESSION:
 
 
1. Acute right-sided infarct in the distribution of the lateral
lenticulostriate, involving the caudate body and the putamen.
2. No evidence of hemorrhage, mass, edema, or midline shift.

TTE
CONCLUSION:
The left atrial volume index is normal. There is a possible 
atrial septal defect (cine loop #68). There is
normal left ventricular wall thickness with a normal cavity 
size. There is normal regional and global left
ventricular systolic function. No thrombus or mass is seen in 
the left ventricle. There is no resting left
ventricular outflow tract gradient. Normal right ventricular 
cavity size with normal free wall motion.
The aortic sinus diameter is normal for gender with normal 
ascending aorta diameter for gender. The
aortic arch diameter is normal. The aortic valve leaflets (3) 
are moderately thickened. There is no aortic
valve stenosis. There is no aortic regurgitation. The mitral 
valve leaflets are mildly thickened with no
mitral valve prolapse. There is trivial mitral regurgitation. 
The tricuspid valve leaflets appear structurally
normal. There is physiologic tricuspid regurgitation. The 
estimated pulmonary artery systolic pressure is
normal. There is a trivial pericardial effusion.
IMPRESSION: Possible small secundum ASD. No vegetations or LV 
mass seen. Normal biventricular
cavity sizes, and regional/global systolic function.

LENIS
IMPRESSION: 
 
No evidence of deep venous thrombosis in the right or left lower 
extremity
veins.  Right sided ___ cyst noted.
 
Brief Hospital Course:
___ year female with vascular risk factors and non compliant with
aspirin who presented with left hemiparesis. NIHSS was 9 for 
left UMN
pattern facial droop, dysarthria, left arm flaccid and left leg
weakness ___ range). NCHCT without infarct, but there was
evidence of chronic microvascular changes. CTA head and neck
without large vessel occlusion. MRI brain showed left acute 
putamen infarct.
Etiology was thought to be likely small vessel, but given size 
of infarct cardioembolic was also considered. TTE was performed 
and showed small ASD, which was not thought to be related to her 
stroke. Nevertheless, LENIS of bilateral lower extremities were 
ordered and showed no DVT, but did show a bakers cyst. She will 
be discharged with ___ of heart to monitorr for afib. Her LDL 
was 129 and she was started on atorvastatin 80mg qhs. Her A1C 
was 78.2, ___ was consulted and recommended Sitagliptin 100mg 
daily upon discharge. She was maintained on ASA 81mg since she 
was non compliant with her medications, and thus this is not 
considered an ASA failure.
Her lisinopril was restarted at home dose. She was evaluated by 
___ who recommended rehab.  

Transitional issues:
-Please start Sitagliptin 100mg daily 
-Blood pressure goal is normotension
-Has follow up with Stroke clinic at ___
-Please follow up with your PCP

___ Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL =129 ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  
 

 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Lisinopril 20 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM  
2.  SITagliptin 100 mg oral daily  
3.  Aspirin 81 mg PO DAILY  
4.  Lisinopril 20 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
 Dear ___,  
 ___ were hospitalized due to symptoms of left sided weakness 
and difficulty with your speech resulting from an ACUTE ISCHEMIC 
STROKE, a condition where a blood vessel providing oxygen and 
nutrients to the brain is blocked by a clot. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms.  
 Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
-Hypertension
-Diabetes
-Hyperlipidemia

 
 
 We are changing your medications as follows:  
 Atorvastatin 40mg QHS
 Aspirin 81mg daily
  
 Please take your other medications as prescribed.  
 
Please follow up with Neurology and your primary care physician 
as listed below.  

If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
___  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 Sincerely,  
 Your ___ Neurology Team  
 ======================================  

 
Followup Instructions:
___